US06221898B1
(i) 3-t-Butoxycarbonylamino-2-methylphenol
3-Amino-2-methylphenol (2.0 g; 16 mmol) and di-t-butylcarbonate were dissolved in THF (20 mL) and refluxed overnight. Evaporation of the solvent followed by flash chromatography (SiO2; EtOAc 5-30% in isohexane) afforded 2.48 g (69%) of the sub-title compound.

reactant | 3-Amino-2-methylphenol | 16 mmol, 2.0 g | NC=1C(=C(C=CC1)O)C | C7H9NO
reactant | di-t-butylcarbonate | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-t-Butoxycarbonylamino-2-methylphenol | 2.48 g, 69% | C(C)(C)(C)OC(=O)NC=1C(=C(C=CC1)O)C | C12H17NO3
